US07915300B2
2-Acetylfuran (20 mmol) and morpholine (20 mmol) were added to neat titanium isopropoxide (32 mmol) and the reaction stirred under N2 at room temperature for 3 h. Methanol (90 ml) was then added followed by the careful portionwise addition of NaBH4 (32 mmol). After stirring at room temperature for 10 mins, the reaction was quenched by addition of 0.1M NaOH and the resultant mixture filtered through a celite pad. The filtrate was extracted twice with DCM, dried over Na2SO4 and concentrated in-vacuo. Flash chromatography of the residue (silica, 5 to 20% EtOAc in Heptane) yielded pure 4-(1-furan-2-yl-ethyl)-morpholine as a golden oil: m/z in MS ES+=182 [M+H]+, 2.76 mmol, 14% yield.

reactant | 2-Acetylfuran | 20 mmol | C(C)(=O)C=1OC=CC1 | C6H6O2
reactant | morpholine | 20 mmol | N1CCOCC1 | C4H9NO
reactant | NaBH4 | 32 mmol | [BH4-].[Na+]
catalyst | titanium isopropoxide | 32 mmol | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | Methanol | 90 ml | CO | CH4O
product | 4-(1-furan-2-yl-ethyl)-morpholine | 14% yield | O1C(=CC=C1)C(C)N1CCOCC1 | C10H15NO2
